US07544812B2
A solution of 2-(4-{2-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (0.087 g, 0.191 mmol) in ethanol (8 mL) was treated with aqueous 5 N NaOH (0.4 mL) and heated to reflux 1.5 h. The reaction mixture was cooled, the solvent removed in vacuo. The resultant residue was acidified with aqueous 1 N HCl (5 mL) and extracted with Et2O. The organic layer was dried (MgSO4) and the solvent removed in vacuo to afford 0.059 g (72%) 2-(4-{2-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid. HRMS (ES+) m/z exact mass calcd for C24H31N2O5 [M+1] 427.2233, found 427.2232. 1H NMR.

reactant | 2-(4-{2-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.191 mmol, 0.087 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC1NC(N(C1)CC1=CC(=C(C=C1)C)C)=O)=O | C26H34N2O5
reactant | NaOH | 5 N, 0.4 mL | [OH-].[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2-(4-{2-[1-(3,4-dimethyl-benzyl)-2-oxo-imidazolidin-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid | 0.059 g, 72% | CC=1C=C(CN2C(NC(C2)CCOC2=CC=C(OC(C(=O)O)(C)C)C=C2)=O)C=CC1C | C24H30N2O5
